US07153848B2
1-(4-carboxybutyl)-3-cyclohexyl-1H-indole-6-carboxylic acid
2N NaOH solution (2.0 mL) was added to a solution of methyl 3-cyclohexyl-1-(5-methoxy-5-oxopentyl)-1H-indole-6-carboxylate (410 mg, 1.1 mmol) in THF/Methanol mixture (2.0 mL/2.0 mL). The reaction mixture was heated at 100° C. under microwave condition for 15 min, after which it was concentrated and the pH was adjusted to 4–5 with 1N HCl solution. A precipitate formed which was collected by filtration to give the product as a white powder, (375 mg, 99% yield). MS m/z 344(MH+). 1H NMR (300 MHz, CD3OD) δ ppm 1.24–1.98 (m, 10 H) 2.00–2.15 (m, 2 H) 2.25–2.39 (m,2H) 2.84 (m, 1 H) 4.16–4.30 (m, 2 H) 4.56–4.72 (m, 2 H) 7.22 (m, 1H) 7.58–7.78 (m, 2H) 8.10 (m, 1H).

reactant | NaOH | 2N, 2.0 mL | [OH-].[Na+]
reactant | methyl 3-cyclohexyl-1-(5-methoxy-5-oxopentyl)-1H-indole-6-carboxylate | 1.1 mmol, 410 mg | C1(CCCCC1)C1=CN(C2=CC(=CC=C12)C(=O)OC)CCCCC(=O)OC | C22H29NO4
solvent | THF Methanol | 2.0 mL | C1CCOC1.CO
product | 1-(4-carboxybutyl)-3-cyclohexyl-1H-indole-6-carboxylic acid | 375 mg, 99% yield | C(=O)(O)CCCCN1C=C(C2=CC=C(C=C12)C(=O)O)C1CCCCC1 | C20H25NO4
